US07176224B2
D. 3-(4-[2-(2-Biphenyl-3-yl-5-methyl-oxazol-4-yl)-ethoxy]-3-propyl-phenyl}-2-methyl-2-phenoxy-propionic acid ethyl ester
A solution of 3-(4-hydroxy-3-propylphenyl)-2-methyl-2-phenoxy-propionic acid ethyl ester (266 mg, 1.0 mmol) in DMF (10 mL) was treated with cesium carbonate (407 mg, 1.25 mmol) and toluene-4-sulfonic acid 2-(2-biphenyl-3-yl-5-methyl-oxazol-4-yl)-ethyl ester (520 mg, 1.20 mmol) (see Ex. 2, Part F) and then heated at 55° C. for 18 h. After cooling to ambient temperature, the mixture was partitioned between ethyl acetate and water. The aqueous phase was extracted with ethyl acetate and then the organic phases were dried (MgSO4), filtered and concentrated under reduced pressure. The residue was purified by column chromatography (100 mL SiO2, hexanes to 30% ethyl acetatelhexanes) to provide the desired product (315 mg, 60%) as a clear, colorless oil: 1H NMR (400 MHz, CDCl3) δ 8.24 (s, 1H), 7.97 (d, J=8.0 Hz, 1H), 7.68–7.63 (m, 3H), 7.51 (t, J=7.6 Hz, 1H), 7.46 (t, J=8.0 Hz, 2H), 7.38 (t, J=7.2 Hz, 1H), 7.25–7.21 (m, 2H), 7.04–6.96 (m, 3H), 6.85–6.69 (m, 3H), 4.26 (t, J=6.4 Hz, 2H), 4.21 (q, J=6.8 Hz, 2H), 3.26 (A of AB, J=13.6 Hz, 1H), 3.09 (B of AB, J=13.6 Hz, 1H), 3.01 (t, J=6.4 Hz, 2H), 2.54 (t, J=7.6 Hz, 2H), 2.41 (s, 3H), 1.54 (sextet, J=7.6 Hz, 2H), 1.41 (s, 3H), 1.23 (t, J=6.8 Hz, 3H), 0.91 (t, J=7.2 Hz, 3H); MS (EI) 604.3 (M+H)+.

reactant | 3-(4-hydroxy-3-propylphenyl)-2-methyl-2-phenoxy-propionic acid ethyl ester | 1.0 mmol, 266 mg | C(C)OC(C(CC1=CC(=C(C=C1)O)CCC)(OC1=CC=CC=C1)C)=O | C21H26O4
reactant | cesium carbonate | 1.25 mmol, 407 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | toluene-4-sulfonic acid 2-(2-biphenyl-3-yl-5-methyl-oxazol-4-yl)-ethyl ester | 1.20 mmol, 520 mg | C1(=CC(=CC=C1)C=1OC(=C(N1)CCOS(=O)(=O)C1=CC=C(C=C1)C)C)C1=CC=CC=C1 | C25H23NO4S
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 3-(4-[2-(2-Biphenyl-3-yl-5-methyl-oxazol-4-yl)-ethoxy]-3-propyl-phenyl}-2-methyl-2-phenoxy-propionic acid ethyl ester | 315 mg, 60% | C(C)OC(C(CC1=CC(=C(C=C1)OCCC=1N=C(OC1C)C=1C=C(C=CC1)C1=CC=CC=C1)CCC)(OC1=CC=CC=C1)C)=O | C39H41NO5
